2148-06-02 06:42:00 Physician Resident Progress Note
Chief Complaint: dental abscess- nasal intubation for airway protection
   24 Hour Events:
 OR RECEIVED - At [**2148-6-1**] 10:20 AM
 INVASIVE VENTILATION - START [**2148-6-1**] 10:36 AM
   ENT evaluated: will check for cuff leak this a.m. 10 a.m. and be
   present for extubation
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-6-1**] 08:00 PM
   Clindamycin - [**2148-6-2**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Pain: [**2-27**] Mild
   Pain location: [**4-4**] neck pain
   Flowsheet Data as of  [**2148-6-2**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 61 (53 - 87) bpm
   BP: 121/68(79) {121/68(79) - 187/97(118)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,530 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                  2,530 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    400 mL
   Urine:
                                                                  2,190 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    120 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 220 (220 - 220) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   12.1 g/dL
   94 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   13 mg/dL
   106 mEq/L
   137 mEq/L
   36.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2148-6-1**]  12:57 PM
                             [**2148-6-2**]  03:56 AM
   WBC
   12.8
   9.2
   Hct
   35.3
   36.2
   Plt
   333
   321
   Cr
   0.7
   0.6
   Glucose
   113
   94
   Other labs: Differential-Neuts:71.0 %, Lymph:19.8 %, Mono:8.4 %,
   Eos:0.8 %, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   69 F with Breast CA s/p b/l mastectomy, hypothyroidism, HTN, dental
   abscess s/p I&D who presents after elective intubation for airway
   protection and monitoring.
   # Respirtory. Stable- now on pressure support.
   -wean ventilator settings and obtain RSBI
   -ENT to check for cuff leak
   -wean sedation
   -extubate if able
   -if swelling 10mg IV decadron
   # Dental abscess: s/p oral surgery with pus drainage 5 cc. Drains in
   place. ENT said to monitor and change dressings only if draining pus.
   Leave drains in place.
   -ENT following
   -OMFS following
   -Continue clindamycin and levofloxacin until cultures from surgery
   return.
   -afebrile, WBC decreasing
   -gram stain from abscess negative, cultures pending
   # HTN: currently better controlled.
   -on enalapril prn
   -restart PO meds once extubated
   # Hypothyroidism: Cont Levothyroxine once extubated
   # h/o breast cancer: no active issues
   # FEN: NPO currently, replete lytes prn
   # PPX: subcutaneous heparin SQ, bowel regimen
   # Access: PIV x 2
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-6-1**] 10:51 AM
   18 Gauge - [**2148-6-1**] 11:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin- switch to lovenox and d/c heparin drip
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above
   Key issue: good leak, mouth irrigated, extubated.
   Still significant oral/sublingual swelling. At risk for losing airway,
   will observe in ICU until tomorrow.
   Critically ill with airway compromise, now improved and extubated.
   Time: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2148-6-2**] 14:07 ------

2148-06-03 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2148-6-2**] 11:13 AM
   Extubated yesterday. O2 sats fine overnight. No events.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-6-2**] 08:00 PM
   Clindamycin - [**2148-6-3**] 12:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-2**] 10:00 PM
   Morphine Sulfate - [**2148-6-3**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-3**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 63 (60 - 97) bpm
   BP: 130/67(82) {111/58(73) - 169/96(143)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    688 mL
                                                                    598 mL
   PO:
             TF:
   IVF:
                                                                    688 mL
                                                                    598 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    410 mL
   Urine:
                                                                  2,485 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,797 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Vt (Spontaneous): 448 (448 - 448) mL
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Dressing C/D/I at left mandible
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   311 K/uL
   11.9 g/dL
   98 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   33.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2148-6-1**]  12:57 PM
                             [**2148-6-2**]  03:56 AM
                             [**2148-6-3**]  03:40 AM
   WBC
   12.8
   9.2
   6.7
   Hct
   35.3
   36.2
   33.4
   Plt
   333
   321
   311
   Cr
   0.7
   0.6
   0.6
   Glucose
   113
   94
   98
   Other labs: Differential-Neuts:71.0 %, Lymph:19.8 %, Mono:8.4 %,
   Eos:0.8 %, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   69 F with Breast CA s/p b/l mastectomy, hypothyroidism, HTN, dental
   abscess s/p I&D who presents after elective intubation for airway
   protection and monitoring.
   # Respiratory. Extubated without difficulty. 02sats stable overnight.
   On room air today.
   # Dental abscess: s/p oral surgery with pus drainage 5 cc. Drains in
   place.
   -ENT following will likely pull drains today
   -OMFS following
   -Continue clindamycin and levofloxacin until cultures from surgery
   return.
   -afebrile, WBC decreasing
   -gram stain from abscess negative, cultures pending
   # HTN: currently better controlled.
   -on enalapril prn
   -restart PO meds once taking PO
   # Hypothyroidism: Cont Levothyroxine once taking PO
   # h/o breast cancer: no active issues
   # FEN: NPO currently; will advance diet per ENT recs
   # PPX: subcutaneous heparin SQ, bowel regimen
   # Access: PIV x 2
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-6-2**] 08:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   No respiratory events. Extubated uneventfully. Talking, breathing
   comfortably, taking POs.
   Safe for tx to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2148-6-3**] 18:06 ------